US06340759B1
(17-2) 1,3-Dichloroisoquinoline
A mixture solution of homophthalimide (10.5 g) and phenylphosphonate dichloride (30 ml) was heated at 110° C. for 2 hr. After the reaction mixture was cooled, water was added thereto, and then the resulting mixture was neutralized with sodium carbonate. The resulting mixture was extracted with ethyl acetate, washed with brine, dried, and then the solvent was evaporated. The resulting residue was purified by silica gel column chromatography (methylene chloride), to give 9.30 g of the title compound as white crystals.

reactant | homophthalimide | 10.5 g | C1(CC=2C(C(N1)=O)=CC=CC2)=O | C9H7NO2
reactant | phenylphosphonate dichloride | 30 ml | [Cl-].[Cl-].C1(=CC=CC=C1)P([O-])([O-])=O
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | water | O | H2O
product | 1,3-Dichloroisoquinoline | 9.30 g | ClC1=NC(=CC2=CC=CC=C12)Cl | C9H5Cl2N
